US04829071
2-[N-Methyl-N-(5-nitrobenzofur-2-ylmethyl)amino]-5-nitroindane
2-Methylamino-5-nitroindane hydrochloride (0.28 g), 2-bromomethyl-5-nitrobenzofuran (0.31 g) and potassium carbonate (0.5 g) were stirred at room temperature in ethanol for 18 hours. A further portion of 2-bromomethyl-5-nitrobenzofuran (0.05 g) was then added and stirring was continued at room temperature for 5 hours. The solvent was evaporated in vacuo and the residue was dissolved in methylene chloride, washed with water, dried (MgSO4) and evaporated to give an oil which was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated to give a gum which was triturated with diisopropyl ether and the precipitate was filtered off to give the title compound, yield 0.35 g, m.p. 109°-111°.

reactant | 2-Methylamino-5-nitroindane hydrochloride | 0.28 g | Cl.CNC1CC2=CC=C(C=C2C1)[N+](=O)[O-]
reactant | 2-bromomethyl-5-nitrobenzofuran | 0.31 g | BrCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H6BrNO3
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-5-nitrobenzofuran | 0.05 g | BrCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C9H6BrNO3
solvent | ethanol | C(C)O | C2H6O
product | 2-[N-Methyl-N-(5-nitrobenzofur-2-ylmethyl)amino]-5-nitroindane | CN(CC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])C2CC1=CC=C(C=C1C2)[N+](=O)[O-] | C19H17N3O5
